US05977141
(a) Isobutylamino-acetic acid, ethyl ester hydrochloride
A mixture of isobutylamine (0.90 mL, 0.0091 mol), bromoacetic acid, ethyl ester (1.0 mL, 0.0090 mol), and triethylamine (1.28 mL, 0.00918 mol) in diethylether (15 mL) was stirred at room temperature for 24 hours. The resulting suspension was filtered off and washed with diethylether. The filtrate and washings were combined and rotary evaporated to an oil. The oil was chromatographed on silica gel (150 g, 230-400 mesh) eluting with dichloromethane-diethylether (19:1, 8×125 mL; 15:1, 7×125 mL; 10:1, 15×125 mL). Fractions containing product were combined and rotary evaporated to give an oil. The oil was dissolved in diethylether, concentrated hydrochloric acid (0.52 mL, 0.0063 mol HCl) was added, and the volatiles were rotary evaporated to give a white solid. The solid was dried in vacuo; yield 1.0 g (59%).

reactant | isobutylamine | 0.0091 mol, 0.90 mL | C(C(C)C)N | C4H11N
reactant | bromoacetic acid, ethyl ester | 0.0090 mol, 1.0 mL | BrCC(=O)OCC | C4H7BrO2
reactant | triethylamine | 0.00918 mol, 1.28 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 0.0063 mol, 0.52 mL | Cl | ClH
solvent | diethylether | 15 mL | C(C)OCC | C4H10O
product | Isobutylamino-acetic acid, ethyl ester hydrochloride | Cl.C(C(C)C)NCC(=O)OCC | InChI=1S/C8H17NO2.ClH/c1-4-11-8(10)6-9-5-7(2)3;/h7,9H,4-6H2,1-3H3;1H
